US05770615
Following the procedure described in part E of Example 1 (R), (S)-α-[[2-[((1,1-dimethylethyl)dimethylsilyl)oxy]-2-[4-hydroxy-3-[(methylsulfonyl)amino]phenyl]ethyl]amino]-4-methoxybenzeneacetic acid was condensed with diethyl 3-chloro-4-aminobenzylphosphonate to generate the title compound. The diethyl 3-chloro-4-aminobenzylphosphonate was prepared from commercial 2-chloro-4-nitrobenzoic acid upon sequential treatment with 1) diborane in THF; 2) φ3P,CBr4 in CH2Cl2 ; 3) P(OEt)3 at 125° C.; and 4) reduction with Na2S2 O4 in THF/H2O at 100° C.

reactant | 2-chloro-4-nitrobenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diborane | B#B | B2
reactant | P(OEt)3 | P(OCC)(OCC)OCC | C6H15O3P
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF H2O | C1CCOC1.O
product | diethyl 3-chloro-4-aminobenzylphosphonate | ClC=1C=C(CP(OCC)(OCC)=O)C=CC1N | C11H17ClNO3P
